US07304074B2
To a solution of 4-isopropoxy-6-methyl-[1,5]naphthyridine-3-carbonitrile (260.0 mg, 1.14 mmol) in 1,4-dioxane was added SeO2 (165.0 mg, 1.48 mmol) and the reaction mixture was refluxed for 3.5 hrs, when the TLC showed no starting material left, then cooled to room temperature and filtered through celite. The solid was washed with hot AcOEt and the filtrate was then concentrated to give 6-formyl-4-isopropoxy-[1,5]naphthyridine-3-carbonitrile as a light yellow solid (270.3 mg, 98.3). HR-MS-EI (+) m/e calcd for C13H11N3O2 (M+) 241.0851. found 241.0854.

reactant | 4-isopropoxy-6-methyl-[1,5]naphthyridine-3-carbonitrile | 1.14 mmol, 260.0 mg | C(C)(C)OC1=C(C=NC2=CC=C(N=C12)C)C#N | C13H13N3O
reactant | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | 6-formyl-4-isopropoxy-[1,5]naphthyridine-3-carbonitrile | C(=O)C=1N=C2C(=C(C=NC2=CC1)C#N)OC(C)C | C13H11N3O2
